US04235915
1-Benzoyl-3-[1-(2-[1,4-benzodioxan-2-yl)-2-oxoethyl]piperid-4-yl]urea
1-Benzoyl-3-(piperid-4-yl)urea (2.46 g, 0.01 mol) and 2-bromoacetyl-1,4-benzodioxan (2.57 g, 0.01 mol) in dry dimethylformamide (40 mls) were stirred at room temperature. Triethylamine (1,1 g, 1.5 cm3) was added and the suspension stirred for 1 hour. Water was added and the solid filtered off (4.20 g, 100%). The solid was suspended in methanol (40 mls) and ethanolic hydrogen chloride added until the solution was acidic. The title compound was filtered off as the hydrochloride salt and dried (yield 3.51 gm 76% yield). Melting pt. 160°-161° C.

reactant | 1-Benzoyl-3-(piperid-4-yl)urea | 0.01 mol, 2.46 g | C(C1=CC=CC=C1)(=O)NC(=O)NC1CCNCC1 | C13H17N3O2
reactant | 2-bromoacetyl-1,4-benzodioxan | 0.01 mol, 2.57 g | BrCC(=O)C1COC2=C(O1)C=CC=C2 | C10H9BrO3
reactant | Triethylamine | 1.5 cm3, 1,1 g | C(C)N(CC)CC | C6H15N
reactant | Water | O | H2O
solvent | dimethylformamide | 40 mls | CN(C=O)C | C3H7NO
product | 1-Benzoyl-3-[1-(2-[1,4-benzodioxan-2-yl)-2-oxoethyl]piperid-4-yl]urea | 76% yield | C(C1=CC=CC=C1)(=O)NC(=O)NC1CCN(CC1)CC(=O)C1COC2=C(O1)C=CC=C2 | C23H25N3O5
